US08445687B2
1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(4-hydroxyphenyl)urea (35 g, 0.1060 mol) was dissolved in dry N,N-dimethyl formamide (100 ml) and potassium tert-butoxide (14.28 g, 0.1272 mol) was added in one lot at room temperature. The reaction mass was stirred at ambient temperature for 2-3 hours and 4-chloro-N-methyl picolinamide (18.09 g, 0.1060 mol) was added in one lot. The reaction mass was maintained at 60-70° C. for 2-3 hours and cooled to room temperature. It was then diluted with ethyl acetate and the organic layer was washed with water followed by 1N HCl and finally with brine. The organic layer was separated, dried over sodium sulfate and degassed to obtain solid. The obtained solid was stripped with ethyl acetate, finally slurried in acetonitrile (350 ml) at room temperature, filtered and vacuum dried to give 4-(4-{3-[4-Chloro-3-(trifluoromethyl)phenyl]ureido}phenoxy)-N2-methylpyridine-2-carboxamide (sorafenib) (32 g).

reactant | 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(4-hydroxyphenyl)urea | 0.1060 mol, 35 g | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)O)C(F)(F)F | C14H10ClF3N2O2
reactant | potassium tert-butoxide | 0.1272 mol, 14.28 g | CC(C)([O-])C.[K+]
reactant | 4-chloro-N-methyl picolinamide | 0.1060 mol, 18.09 g | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
solvent | N,N-dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
product | 4-(4-{3-[4-Chloro-3-(trifluoromethyl)phenyl]ureido}phenoxy)-N2-methylpyridine-2-carboxamide | 32 g | ClC1=C(C=C(C=C1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)=O)C(F)(F)F | C21H16ClF3N4O3
